x1 VDD v_in v_out 0 comp-schmitt
Vdd VDD 0 {v_vdd}
Vin v_in 0 pwl(0 0, 1e-3 {v_vdd}, 2e-3 0)
C1 v_out 0 1e-15

*.lib cornerMOSlv.lib mos_tt

.subckt comp-schmitt VDD v_ai v_o VSS
XM1 v_o_n_raw v_ai net1 VSS sg13_lv_nmos w=0.5u l=0.4u ng=1
XM2 net1 v_ai VSS VSS sg13_lv_nmos w=0.5u l=0.4u ng=1
XM3 v_o_n_raw v_ai net2 VDD sg13_lv_pmos w=1.0u l=0.4u ng=1
XM4 net2 v_ai VDD VDD sg13_lv_pmos w=1.0u l=0.4u ng=1
XM5 VDD v_o_n_raw net1 VSS sg13_lv_nmos w=0.5u l=0.4u ng=1
XM6 VSS v_o_n_raw net2 VDD sg13_lv_pmos w=1.1u l=0.4u ng=1
XMN0 v_o v_o_n_raw VSS VSS sg13_lv_nmos w=740.00n l=0.13u ng=1
XMP0 v_o v_o_n_raw VDD VDD sg13_lv_pmos w=1.12u l=0.13u ng=1
.ends

.end
